US08110687B2
A solution of N-[3-cyano-5-(trifluoromethyl)phenyl]-7-{[2-(pyrrolidin-1-ylcarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.310 g, 0.58 mmol) and Raney Ni (50% v/v in water, 2.0 mL) in 7M ammonia in MeOH (30 mL) was allowed to stir at rt under an atmosphere of hydrogen overnight. The reaction mixture was filtered over Celite, the Celite rinsed with MeOH, and the solution concentrated to give N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-{[2-(pyrrolidin-1-ylcarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-362 (0.205 g, 55%). 1H NMR (400 MHz, CD3OD, HCl Salt) δ: 8.69 (d, 1H), 8.08 (s, 1H), 8.02 (s, 1H), 7.70 (d, 1H), 7.54 (s, 1H), 7.45-7.42 (dd, 1H), 7.31 (d, 2H), 7.09-7.03 (m, 2H), 4.20 (s, 2H), 3.65-3.59 (m, 4H), 3.15-2.91 (m, 5H), 2.25-2.21 (m, 1H), and 2.02-1.93 (m, 5H). LCMS: (FA) ES+ 539.8, ES− 537.5.

reactant | N-[3-cyano-5-(trifluoromethyl)phenyl]-7-{[2-(pyrrolidin-1-ylcarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.58 mmol, 0.310 g | C(#N)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C(=O)N1CCCC1 | C29H25F3N4O3
solvent | ammonia | 7M | N | H3N
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Ni | 2.0 mL | [Ni] | Ni
product | N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-{[2-(pyrrolidin-1-ylcarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C(=O)N1CCCC1 | C29H29F3N4O3
